US08357721B2
4-Chloro-N-[(1-{4-[2-(pyrid-2-yloxy)ethyl]benzyl}cyclopentyl)methyl]benzenesulfonamide
A mixture of 30 mg (0.074 mmol) of 4-chloro-N-({1-[4-(2-hydroxyethyl)benzyl]cyclopentyl}methyl]benzenesulfonamide (EP 472449), 130 μl (1.48 mmol) of 2-fluoropyridine and 16.576 mg (0.148 mmol) of potassium carbonate is irradiated in a microwave oven (600 W max.), at a maximum temperature of 120° C. for 4 minutes. The crude reaction medium is purified by preparative LC-MS to give 8 mg of the expected compound.

reactant | 4-chloro-N-({1-[4-(2-hydroxyethyl)benzyl]cyclopentyl}methyl]benzenesulfonamide | 0.074 mmol, 30 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCC1(CCCC1)CC1=CC=C(C=C1)CCO | C21H26ClNO3S
reactant | 2-fluoropyridine | 1.48 mmol, 130 μl | FC1=NC=CC=C1 | C5H4FN
reactant | potassium carbonate | 0.148 mmol, 16.576 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-Chloro-N-[(1-{4-[2-(pyrid-2-yloxy)ethyl]benzyl}cyclopentyl)methyl]benzenesulfonamide | 8 mg, Yield: 22.3% | ClC1=CC=C(C=C1)S(=O)(=O)NCC1(CCCC1)CC1=CC=C(C=C1)CCOC1=NC=CC=C1 | C26H29ClN2O3S
